US07563850B2
To 1.0 g of bis(trifluoromethylsulfonyl)imide was added dropwise 0.34 g of N-ethylimidazole in a nitrogen atmosphere in a glove box, and the solution was stirred overnight to obtain N-ethylimidazole bis(trifluoromethylsulfonyl)imide (EtIm+TFSI−) as a colorless transparent liquid. The resulting salt had a melting point of 6.6° C.

reactant | bis(trifluoromethylsulfonyl)imide | 1.0 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
reactant | N-ethylimidazole | 0.34 g | C(C)N1C=NC=C1 | C5H8N2
product | N-ethylimidazole bis(trifluoromethylsulfonyl)imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(C)N1C=NC=C1 | InChI=1S/C5H8N2.C2F6NO4S2/c1-2-7-4-3-6-5-7;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h3-5H,2H2,1H3;/q;-1
